US06114358
a) 5-Cyano-1-methylpyrrole-3-carbaldehyde
Aluminum trichloride (24.24 g, 180.86 mmol) was dissolved in nitromethane/dichloromethane (1/1, 320 ml) and, after cooling to -20° C., 1-methylpyrrole-2-carbonitrile (8 g, 75.36 mmol) was added. Then α,α-dichlorodimethyl ether (10.4 g, 90.43 mmol) dissolved in dichloromethane (42 ml) was added dropwise. After the mixture had been stirred at 0° C. for 4 h, it was poured onto ice (200 g). The aqueous phase was extracted with diethyl ether. The combined organic phases were washed with saturated sodium bicarbonate solution, water and saturated sodium chloride solution until neutral. After drying over sodium sulfate, the solvent was removed in a rotary evaporator. The crude product was employed without further purification in the following reactions. Yield: 9.2 g (91%).

reactant | Aluminum trichloride | 180.86 mmol, 24.24 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | 1-methylpyrrole-2-carbonitrile | 75.36 mmol, 8 g | CN1C(=CC=C1)C#N | C6H6N2
reactant | α,α-dichlorodimethyl ether | 90.43 mmol, 10.4 g | COCCl | C2H5ClO
solvent | nitromethane dichloromethane | 320 ml | [N+](=O)([O-])C.ClCCl
solvent | dichloromethane | 42 ml | ClCCl | CH2Cl2
product | 5-Cyano-1-methylpyrrole-3-carbaldehyde | C(#N)C1=CC(=CN1C)C=O | C7H6N2O
